US07834183B2
Example 1 Synthesis of 1-Pyridin-4-ylindole
In 600 mL of toluene were dissolved 30.0 g (0.20 mol) of 4-chloropyridine hydrochloride, 53.8 g (0.56 mol) of sodium t-butoxide, 19.6 g (0.01 mol) of 10 w/w % palladium-carbon (Pd—C) (containing 54 w/w % water), 23.4 g (0.20 mol) of indole, and 5.39 g (0.01 mol) of DPEphos. The resultant mixture was stirred for 10 hours with refluxing. After completion of the reaction, the reaction mixture was cooled to room temperature and the palladium-carbon was filtered off. This liquid reaction mixture was concentrated. 300 mL of ethyl acetate and 300 mL of 1-M hydrochloric acid were added to the residue to extract the target compound with the aqueous layer. Subsequently, 300 mL of ethyl acetate and 200 mL of 2-M aqueous sodium hydroxide solution were added to the aqueous layer to extract the target compound with the organic layer this time. This organic layer was washed with 200 mL of water and then dried with magnesium sulfate. The organic layer was filtered and concentrated to obtain 33.3 g (yield, 86%) of the target compound as an oily substance. The purity thereof was 99.8%.

reactant | 4-chloropyridine hydrochloride | 0.20 mol, 30.0 g | Cl.ClC1=CC=NC=C1
reactant | sodium t-butoxide | 0.56 mol, 53.8 g | CC(C)([O-])C.[Na+]
reactant | indole | 0.20 mol, 23.4 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | DPEphos | 0.01 mol, 5.39 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-carbon | [C].[Pd]
product | 1-Pyridin-4-ylindole | N1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C13H10N2
